US08487117B2
Preparation of 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide
To a suspension of 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid (0.36 g, 1.2 mmol) in dichloromethane (5.0 ml) was added oxalyl chloride (0.3 ml, 3.5 mmol). The mixture was stirred at room temperature for 1.0 h, after which time the solvent was removed on a rotary evaporator. To this brown residue was added THF (5.0 ml), 4-(methanesulfonyl)aniline hydrochloride (0.3 g, 1.4 mmol), and DIEA (0.81 ml, 4.8 mmol). The solution was stirred at room temperature for 3.0 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine, then dried over sodium sulfate and concentrated on a rotary evaporator. To the residue was added IPE and triturated. The solid was filtered to give the title compound (0.24 g, 44%).

reactant | 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-1H-pyrrole-3-carboxylic acid | 1.2 mmol, 0.36 g | ClC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)O)C)C(F)(F)F | C13H9ClF3NO2
reactant | oxalyl chloride | 3.5 mmol, 0.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(methanesulfonyl)aniline hydrochloride | 1.4 mmol, 0.3 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | DIEA | 4.8 mmol, 0.81 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | 5-[4-chloro-2-(trifluoromethyl)phenyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-1H-pyrrole-3-carboxamide | 0.24 g, 44% | ClC1=CC(=C(C=C1)C1=C(C(=CN1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C)C(F)(F)F | C20H16ClF3N2O3S
